US07183445B2
1-benzyloxy-4-(1-iodo-vinyl)-benzene (12.0 g, 0.035 mol), vinyl tributyl tin (16.0 mL, 0.056 mol) and PdCl2(CH3CN)2 (150 mg, 0.0579 mmol) were dissolved in DMF (300 mL). The reaction mixture was stirred at 25° C. for 16 h, then partitioned between ethyl acetate (800 mL) and H2O (400 mL). The organic layer was washed by brine, concentrated and purified on SiO2 (15% ethyl acetate/Hexane) to yield 1-benzyloxy-4-(1-methylene-allyl)-benzene.

reactant | 1-benzyloxy-4-(1-iodo-vinyl)-benzene | 0.035 mol, 12.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(=C)I | C15H13IO
reactant | vinyl tributyl tin | 0.056 mol, 16.0 mL | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 1-benzyloxy-4-(1-methylene-allyl)-benzene | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C(C=C)=C | C17H16O
